US06593437B1
N-[1′-(Dimethylcyclohexyl)silylferrocenyl]acetamide:
15.5 ml (25.2 mmol) of t-butyllithium are added dropwise at −80° C. to a solution of 2 g (8.4 mmol) of monoferrocenylacetamide in 40 ml of THF. The mixture is subsequently warmed slowly to room temperature. After stirring for one hour at room temperqture, an excess of cyclohexyldimethylchlorosilane is added [5 ml (23 mmol) of cyclohexyldimethylchlorosilane]. The mixture is poured into 100 ml of water and extracted a number of times with ether, and the combined ether phases are washed with water. Purification is carried out by means of column chromatography (eluant CH2Cl2; Al2O3).

reactant | t-butyllithium | 25.2 mmol, 15.5 ml | C(C)(C)(C)[Li]
reactant | monoferrocenylacetamide | 8.4 mmol, 2 g | [C-]1(C=CC=C1)CC(=O)N.[CH-]1C=CC=C1.[Fe+2]
reactant | cyclohexyldimethylchlorosilane | C1(CCCCC1)[Si](Cl)(C)C | C8H17ClSi
reactant | cyclohexyldimethylchlorosilane | 23 mmol, 5 ml | C1(CCCCC1)[Si](Cl)(C)C | C8H17ClSi
reactant | water | 100 ml | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | N-[1′-(Dimethylcyclohexyl)silylferrocenyl]acetamide | CC1(CCC(CC1)[SiH2][C-]1C=CC=C1)C.[C-]1(C=CC=C1)NC(C)=O.[Fe+2] | InChI=1S/C13H21Si.C7H8NO.Fe/c1-13(2)9-7-12(8-10-13)14-11-5-3-4-6-11;1-6(9)8-7-4-2-3-5-7;/h3-6,12H,7-10,14H2,1-2H3;2-5H,1H3,(H,8,9);/q2*-1;+2
